US04156723
A. trans-3-[3-(Dimethylamino)propyl]-1,2,3,4-tetrahydro-2-naphthalenol
to a solution of 0.1 mol of dimethylamino propyllithium in 500 ml of ether cooled to 0°-5° C. is added dropwise a solution of 7.3 g (0.05 mol) of 2,3-epoxy-1,2,3,4-tetrahydronaphthalene in 100 ml of ether. The reaction mixture is then heated under reflux for 2 hours and decomposed with water. The organic layer is separated and dried and the desired 1,2,3,4-tetrahydro-3-(3-dimethylaminopropyl)-2-naphthalenol separated from byproducts by column chromatography on neutral alumina.

reactant | dimethylamino propyllithium | 0.1 mol | CN(C)CCC[Li]
reactant | 2,3-epoxy-1,2,3,4-tetrahydronaphthalene | 0.05 mol, 7.3 g | O1C2CC3=CC=CC=C3CC21 | C10H10O
reactant | water | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | trans-3-[3-(Dimethylamino)propyl]-1,2,3,4-tetrahydro-2-naphthalenol | CN(CCC[C@H]1[C@@H](CC2=CC=CC=C2C1)O)C | C15H23NO
